US07759337B2
Step, A: (R)-2-(Benzylamino)propan-1-ol
(R)-2-Aminopropan-1-ol (20.00 g, 266.3 mmol) was dissolved in benzene (266 mL) before benzaldehyde (26.91 mL, 266.3 mmol) was added and the reaction refluxed under a Dean-Stark trap for 1.5 h collecting 4.2 mL of water. The reaction mixture was cooled in an ice bath before sodium borohydride (10.07 g, 266.3 mmol) was added. The mixture was warmed to RT and stirred overnight. In an ice bath, methanol was added to the reaction mixture to quench the hydride, then the reaction concentrated, filtered, washed with dichloromethane, concentrated, and purified by flash chromatography to give the title compound. MS (ES+): 166 (M+H)+.

reactant | (R)-2-Aminopropan-1-ol | 266.3 mmol, 20.00 g | N[C@@H](CO)C | C3H9NO
reactant | benzaldehyde | 266.3 mmol, 26.91 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium borohydride | 266.3 mmol, 10.07 g | [BH4-].[Na+]
reactant | methanol | CO | CH4O
solvent | benzene | 266 mL | C1=CC=CC=C1 | C6H6
product | (R)-2-(Benzylamino)propan-1-ol | C(C1=CC=CC=C1)N[C@@H](CO)C | C10H15NO
